US08003006B2
7.0 g of 1-((trans-4-(2-formylethyl)cyclohexyl)methoxy)-2,3-difluorobenzene was dissolved in 30 mL of THF, and 10.6 g of methyl triphenylphosphonium bromide was added thereto. To this solution, the THF (15 mL) solution containing 3.3 g of potassium-t-butoxide was added dropwise at an internal temperature of 5 to 20° C., and the solution was stirred for 30 min. 10 mL of water was added thereto, and the solvent was evaporated under reduced pressure. Hexane and 50% methanol aqueous solution were added thereto, and the organic layer was fractioned. This organic layer was washed with 50% methanol aqueous solution and saturated saline, and subjected to column chromatography. The solvent was evaporated under reduced pressure, to thereby obtain 3.0 g of 1-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorobenzene.

reactant | 1-((trans-4-(2-formylethyl)cyclohexyl)methoxy)-2,3-difluorobenzene | 7.0 g | C(=O)CC[C@@H]1CC[C@H](CC1)COC1=C(C(=CC=C1)F)F | C16H20F2O2
reactant | potassium-t-butoxide | 3.3 g | CC(C)([O-])C.[K+]
reactant | water | 10 mL | O | H2O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
catalyst | methyl triphenylphosphonium bromide | 10.6 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-((trans-4-(3-butenyl)cyclohexyl)methoxy)-2,3-difluorobenzene | 3.0 g | C(CC=C)[C@@H]1CC[C@H](CC1)COC1=C(C(=CC=C1)F)F | C17H22F2O
